US08008295B2
Step D: Ethyl 5-chloro-3-[(methylamino)sulfonyl]-1-(phenylsulfonyl)-1H-indole-2-carboxylate
To a solution of ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)1H-indole-2-carboxylate (101 mg, 0.219 mmol) in 2 mL of dichloromethane was added triethylamine (0.157 mL, 1.09 mmol), followed by methylamine hydrochloride(44 mg, 0.66 mmol). After one hour, the mixture was partitioned between 100 mL of EtOAc and 100 mL of saturated aqueous NH4Cl solution. The organic phase was washed with brine, dried with Na2SO4, filtered, and concentrated in vacuo to give the titled product. ESI+MS: 457.0 [M+H]−.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)1H-indole-2-carboxylate | 0.219 mmol, 101 mg | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | triethylamine | 1.09 mmol, 0.157 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.66 mmol, 44 mg | Cl.CN
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Ethyl 5-chloro-3-[(methylamino)sulfonyl]-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)NC | C18H17ClN2O6S2
